US04857301
5-(4-piperidinylmethylaminosulfonyl) isoquinoline
Dissolve 5.02 g of 4-aminomethylpiperidine and 22 g of triethylamine in 50 ml of dichloromethane. Add dropwise over 30 minutes 5.0 g of 5-isoquinoline sulfonyl chloride dissolved in 50 ml of dichloromethane while cooling the mixture in an ice bath. Stir at room temperature for 72 hours. Filter the reaction mixture and evaporate the filtrate. Chromatograph the residue over 400g of silica gel eluting with dichloromethane/methanol (9/1). Obtain the title compound by evaporating the appropriate fractions, as determined by thin layer chromatography. Dissolve the product in ethanol saturated with HCl and evaporate to obtain the title compound as the dihydrochloride salt. FAB MS (M+1)e =306.

reactant | 4-aminomethylpiperidine | 5.02 g | NCC1CCNCC1 | C6H14N2
reactant | triethylamine | 22 g | C(C)N(CC)CC | C6H15N
reactant | 5-isoquinoline sulfonyl chloride | 5.0 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-(4-piperidinylmethylaminosulfonyl) isoquinoline | N1CCC(CC1)CNS(=O)(=O)C1=C2C=CN=CC2=CC=C1 | C15H19N3O2S
